US07582771B2
To a suspension of 4-{3-[2-(2-Amino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid (125.0 g, 0.239 mol) in dichloromethane (1.25 L) at ambient temperature, bis(trimethylsilyl)trifluoroacetamide (89.2 g, 0.347 mol) was added. After refluxing for 0.5 hours, the reaction mixture was cooled to 35° C. To the reaction mixture solution, pyridine (49.1 g, 0.621 mol) and a solution of (3,4-Dichloro-phenyl)-methanesulfonyl chloride (68.2 g, 0.263 mol) in dichloromethane (200 mL) were added successively. The reaction mixture was refluxed for 0.5 h and then cooled to room temperature. Water (1.25 L) and conc.HCl (61.6 g) were added to the reaction mixture successively. The organic layer was washed with water (600 mL×2) and concentrated. The concentrate was dissolved in 2-propanol (710 mL) added to cold water (2.45 L) and the crude product (173.0 g, yield 97%, HPLC 78%, SLI 11%) was collected after filtration. Pure 4-(3-{1-Benzhydryl-5-chloro-2-[2-(3,4-dichloro-phenylmethanesulfonylamino)-ethyl]-1H-indol-3-yl}-propyl)-benzoic acid (WAY-195902, 125.0 g, yield 72%, HPLC 98%, SLI 033%) was obtained by successive treatment of the crude product with a mixture of toluene and heptane followed by a mixture of ethyl acetate and heptane. 1H NMR (DMSO−d6): δ12.80 (br.s, 1H), 7.89 (d, 2H, J=2 Hz), 7.59 (d, 1H, J=1.5 Hz), 7.53 (d,1H, J=6 Hz), 7.48 (d, 1H, J=1.5 Hz), 7.38 (m, 9H), 7.20 (m, 5H), 6.77 (dd, 1H, J=6.9 & 1.5 Hz), 6.46 (d, 1H, J=6.9 Hz), 4.36 (s, 2H), 3.18 (m,2H), 2.96 (m,2H), 2.76 (m, 4H), 1.90(m, 2H).

reactant | 4-{3-[2-(2-Amino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid | 0.239 mol, 125.0 g | NCCC=1N(C2=CC=C(C=C2C1CCCC1=CC=C(C(=O)O)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O2
reactant | bis(trimethylsilyl)trifluoroacetamide | 0.347 mol, 89.2 g | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | pyridine | 0.621 mol, 49.1 g | N1=CC=CC=C1 | C5H5N
reactant | (3,4-Dichloro-phenyl)-methanesulfonyl chloride | 0.263 mol, 68.2 g | ClC=1C=C(C=CC1Cl)CS(=O)(=O)Cl | C7H5Cl3O2S
reactant | HCl | 61.6 g | Cl | ClH
solvent | dichloromethane | 1.25 L | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | 1.25 L | O | H2O
product | 4-(3-{1-Benzhydryl-5-chloro-2-[2-(3,4-dichloro-phenylmethanesulfonylamino)-ethyl]-1H-indol-3-yl}-propyl)-benzoic acid | 125.0 g, yield 72% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCCC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl | C40H35Cl3N2O4S
